US05238954
A mixture of 4.6 g of 8-cyanomethyl-2-(3-fluorophenyl)-4H-benzopyran-4-one; 18 ml of glacial acetic acid and 18 ml of sulfuric acid in 418 ml of water was stirred 12 hours at room temperature and diluted with 200 ml of water. The resulting suspension was filtered and the solids washed with water, then dissolved in 170 ml of 5% aqueous sodium bicarbonate, filtered to removed insoluble solids and acidified by addition of 11 ml of concentrated sulfuric acid. The resulting precipitate was filtered and the solids washed with water and dried to give 4.4 g of 4-oxo-2-(3-fluorophenyl)-4H-1-benzopyran-8-acetic acid as a white solid: IR 1645 and 1700 cm-1 ; m.p. 208°-211° C.

reactant | 8-cyanomethyl-2-(3-fluorophenyl)-4H-benzopyran-4-one | 4.6 g | C(#N)CC1=CC=CC=2C(C=C(OC21)C2=CC(=CC=C2)F)=O | C17H10FNO2
reactant | acetic acid | 18 ml | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | 18 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 418 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 4-oxo-2-(3-fluorophenyl)-4H-1-benzopyran-8-acetic acid | 4.4 g | O=C1C=C(OC2=C1C=CC=C2CC(=O)O)C2=CC(=CC=C2)F | C17H11FO4
